US07534894B2
Boron tribromide (41.4 mL of a 1 M solution in methylene chloride; 41.4 mmol) was added under nitrogen dropwise over 30 minutes to a solution of 1-benzyl-N-[(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methyl]-N-methyl-1H-indole-3-carboxamide (7.46 g, 13.8 mmol), prepared in the previous step, in 200 mL of methylene chloride at dry ice-acetone temperature. After the addition the dry ice-acetone bath was replaced with an ice bath and the stirring was continued for 3.5 h. At ice bath temperature 50 mL of water was added dropwise. The reaction was then partitioned between additional amounts of methylene chloride and water. The aqueous layer was separated and extracted three times with methylene chloride. The combined extracts were dried (MgSO4) and the solvent removed under reduced pressure to give 1-benzyl-N-[(3′-bromo-4′-hydroxy-1,1′-biphenyl-4-yl)methyl]-N-methyl-1H-indole-3-carboxamide (7.13 g, 98%) as a light tan solid, mp 164-170° C. Elemental Analysis for C30H25BrN2O2 Calc'd: C, 68.58; H, 4.80; N, 5.33. Found: C, 67.27; H, 4.78; N, 5.19

reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | 1-benzyl-N-[(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methyl]-N-methyl-1H-indole-3-carboxamide | 13.8 mmol, 7.46 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)N(C)CC1=CC=C(C=C1)C1=CC(=C(C=C1)OC)Br | C31H27BrN2O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | water | 50 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyl-N-[(3′-bromo-4′-hydroxy-1,1′-biphenyl-4-yl)methyl]-N-methyl-1H-indole-3-carboxamide | 7.13 g, 98% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)N(C)CC1=CC=C(C=C1)C1=CC(=C(C=C1)O)Br | C30H25BrN2O2
